US07576072B2
Step B: Preparation of 6-(2-fluoro-4-methylsulfanyl-phenylamino)-7-methylpyrazolo[1,5-a]pyrimidine-5-carboxylic acid ethyl ester.
2-Fluoro-4-methylsulfanyl-phenylamine (1.01 equivalents), palladium(II) acetate (0.10 equivalents), rac-2,2-bis(diphenylphosphino)-1,1′-binaphthyl (0.15 equivalents), and cesium carbonate (1.50 equivalents) are added to a solution of 6-chloro-7-methylpyrazolo[1,5-a]pyrimidine-5-carboxylic acid ethyl ester (1.00 equivalent) in toluene in a sealed vial. After stirring 10 minutes, the mixture is heated to 80° C. After 24 hours, the reaction mixture is cooled to room temperature and diluted with EtOAc. The resulting precipitate is filtered and washed with EtOAc. The filtrate is diluted with EtOAc and washed with water. The aqueous layer is re-extracted with EtOAc. The combined organic layers are washed with brine, dried (MgSO4) and concentrated. The product is purified by flash chromatography as necessary.

reactant | 2-Fluoro-4-methylsulfanyl-phenylamine | 1.01 equivalents | FC1=C(C=CC(=C1)SC)N | C7H8FNS
reactant | rac-2,2-bis(diphenylphosphino)-1,1′-binaphthyl | 0.15 equivalents | C1(=CC=CC=C1)P(C1(C(=C2C=CC=CC2=CC1)C1=CC=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H34P2
reactant | cesium carbonate | 1.50 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 6-chloro-7-methylpyrazolo[1,5-a]pyrimidine-5-carboxylic acid ethyl ester | 1.00 equivalent | C(C)OC(=O)C1=NC=2N(C(=C1Cl)C)N=CC2 | C10H10ClN3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 0.10 equivalents | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(2-fluoro-4-methylsulfanyl-phenylamino)-7-methylpyrazolo[1,5-a]pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=2N(C(=C1NC1=C(C=C(C=C1)SC)F)C)N=CC2 | C17H17FN4O2S
